US07432392B2
To a solution of 4-benzyloxy-3,5-difluorophenylamine (3.0 g) in THF (30 mL) was added N-bromosuccinimide (2.32 g) under ice-cooling, and the mixture was stirred for 30 minutes. Conc. Hydrochloric acid (2 mL) was added to the reaction mixture to precipitate a solid. The solid was collected by filtration and dried. The dried solid was dissolved in water, and the solution was added with saturated aqueous sodium bicarbonate, and then extracted with ethyl acetate. The extract was dried over sodium sulfate and concentrated to give 4-benzyloxy-2-bromo-3,5-difluorophenylamine (3.33 g).

reactant | 4-benzyloxy-3,5-difluorophenylamine | 3.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)N)F | C13H11F2NO
reactant | N-bromosuccinimide | 2.32 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Hydrochloric acid | 2 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-benzyloxy-2-bromo-3,5-difluorophenylamine | 3.33 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1F)N)Br)F | C13H10BrF2NO
